US09079866B2
4′-(5-Amino-6-cyanopyrazin-2-yl)-3′-fluoro-N-[(2R)-2-hydroxypropyl]biphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 88 using (R)-2-bromo-N-(2-hydroxypropyl)benzenesulfonamide and 3-amino-6-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile. MS (ESI): mass calcd. for C20H18FN5O3S, 427.11; m/z found, 428.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.75 (d, J=2.1, 1H), 8.09 (dd, J=8.0, 1.3, 1H), 7.95 (m, 1H), 7.70 (m, 1H), 7.62 (m, 1H), 7.43 (dd, J=7.6, 1.4, 1H), 7.39-7.31 (m, 2H), 3.74-3.62 (m, 1H), 2.80-2.67 (m, 2H), 1.07 (d, J=6.3, 3H).

reactant | (R)-2-bromo-N-(2-hydroxypropyl)benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)NC[C@@H](C)O | C9H12BrNO3S
reactant | 3-amino-6-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile | NC=1C(=NC(=CN1)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)C#N | C17H18BFN4O2
product | 4′-(5-Amino-6-cyanopyrazin-2-yl)-3′-fluoro-N-[(2R)-2-hydroxypropyl]biphenyl-2-sulfonamide | NC=1N=CC(=NC1C#N)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC[C@@H](C)O)F | C20H18FN5O3S
